data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,288,"CC[O:1][CH2:2][O+:3](C)[B-](F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9763,"C[CH+:1][CH2:2][H:3].[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2138,"COC1=C[CH:1]=[CH:2]O1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,507,"C1CC[N+:1](=[C:2]2CCCC[CH:3]2[H:4])CC1.C1CC[NH:5]CC1|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5819,"CC[NH2:1].C[C:2](OC(=NC1CCCCC1)NC1CCCCC1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9615,"C1CCOC1.C1COCCO1.OCC[O+:1]=[CH:2]C1=C(Cl)N=CS1.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3158,"COC1=[O+:1][Li-:2][N+](C(C)C)(C(C)C)C2CCCC12.[Br-]|((2, 1), 1)"
train,pmechdb_split_0,0,2604,"C[SH:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6456,"CCOC(=O)C(C[C:1](C)([NH:2]C)[OH2+:3])C(C)=O.CN.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2244,"CCO[C+:1]1C(Br)=C[C:2](Br)([H:3])[CH:4]=[CH:5]1.[Br-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,3994,"CCOC(=O)CC(C)(NC)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7030,"C[C:1](CCC=C=[N-])([NH+:2]1CCCC1)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6146,"CC(CCC1CCCC1)[OH+:1][H:2].CC(Cl)CCC1CCCC1.O=S(Cl)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4583,"CO[CH+:1][NH-:2]|(2, 1)"
train,pmechdb_split_0,0,301,"CCOC(=O)CCCC[CH:1]=[CH:2][CH:3](C1C(O[Si](C)(C)C(C)(C)C)CC(=O)C1CCC(=O)OCC)[S+:4](C1=CC=CC=C1)[O-:5].CO.COP(OC)OC|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,574,"CC(C)(C)[O-:1].COC1=C2OC3C45CCN(C6CCCCC6)C(CC(=C24)C=C1)C5[CH:2]([H:3])[CH:4]([Br:5])C3(OC)OC.CS(C)=O.[K+]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9881,"CC[CH+:1]CC.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,5802,"[BH3-][OH+:1][CH2:2][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,836,"CC(C)[OH:1].CC(C)[O][Al:2]([O]C(C)C)[O]C1CC2(OCCO2)C2(C)CC3OC(C)(C)OC3CC2C1=O|(1, 2)"
train,pmechdb_split_0,0,9264,"C#CCO[Si-:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3672,"COC(=O)[C:1](C)([H:2])[C:3](C)=[O:4].[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1177,"CC1=C2C=NC=CC2=C(C)C2=C1C1=CC([CH:1]=[OH+:2])=CC=C1N2C.O=S(=O)([O-])O.O[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3819,"CCN[C:1](C)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10258,"CSC=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5702,"C[N:1]1CCCC1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,34,"CO.COC(CC1=CC(Br)=CC=C1)=[O+:1][H:2].[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3610,"CC[O-:1].O=[N+]([O-])[C:2]1=[C:3](Cl)C=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7878,"CC(=O)CC[C:1](C1=CC=C(S(C)(=O)=O)C=C1)([NH:2]C1=CC=C(F)C=C1)[OH2+:3].CC1=CC=C(S(=O)(=O)[O-])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9698,"C1=CC2=C(C=C1)C=C1C(=C2)C2=NC3=C(C=CC=C3)[N+:1]([H:2])=C12.CC(=O)[O-:3].CO.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6292,"C(C[C:1](=[CH2:2])[O-:3])C[CH2:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2578,"C#CC=CCC1OC(CC)C=CC=CC1[O:1][H:2].CCCCCCCC[P+](Cl)(CCCCCCCC)CCCCCCCC.Cl[C-:3](Cl)Cl|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1310,"C=CC[C:1]#[NH+:2].C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2710,"C1CCOC1.CCCCCCCCC=CCCCCCCCC(=O)OCC(O)C[O+:1]=[C:2](C)C.O=C([O-])C(F)(F)F.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6925,"CO[PH+:1](I)[O:2][CH3:3].[I-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8920,"CCO.CCO[C:1](=[O:2])[C:3](C)(C(I)I)[C:4](=O)[O-:5].[K+]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1641,"C=CC(=NC1CCCCC1)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10270,"CO[P:1](=O)(OC)C(=[N+]=[N-])C(C)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,3566,"C1=CC=C(CC([NH+]2CCCCC2)[O-:1])C=C1.CC(=O)[O:2][H:3].COC(=O)CC(=O)O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7490,"CN(C)[Si:1](C)(C)C.C[O:2]C|(2, 1)"
train,pmechdb_split_0,0,2701,"C1[CH2:1][O:2]1.[NH2-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3791,"COP(=O)(OC)[CH2-:1].C[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4021,"C1=CC2=C(C=C1)C(=[O:1])C1(CCCC1)N2.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,7355,"C1=CC=CC=C1.C1C[NH:1]CCO1.[O-]C1([N+:2]2([H:3])CCOCC2)CCCCC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2532,"CC(=O)[O-].CCCCC[C:1](Cl)=[O:2].OCC(C(O)C=CC1=CC=CS1)[NH2:3].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,204,"CC(=O)CCC(=O)C1=CC(C2=CC=C(C)N2)=CC(C(=O)CC[C:1](C)([NH2:2])[OH2+:3])=C1.CC(=O)[O-].O=C[O-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8339,"CCC(B1OC2=C(C=CC=C2)O1)C(C)C.O[O:1][H:2].[Na][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4728,"CCC12OCC(O1)C(O)CC2=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3942,"CC(C)(C)O[C:1](=[O:2])[CH:3]=[CH:4]CCCCI.CC(C)(C)O[C:5](=[CH:6]C1CCCC1)[O-:7].CCCCI.[Li+]|(7, 5);((5, 6), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,950,"CC1=C[C:1]2([H:2])C(C)(CCC1)C([O][Sn-]([Cl])([Cl])([Cl])[Cl])C[C+:3]2C(C)C.[Cl-:4]|(4, 2);((2, 1), 3)"
